US07977344B2
2-(Butoxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
To butan-1-ol (76 mL) was added portion wise sodium tert-butoxide (15.2 g) (Note: reaction mixture gets warm). The above was stirred until homogeneous (˜15 min) before 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (10.0 g) was then added to the resultant pale yellow solution. The reaction mixture was then heated to 100° C., overnight. The reaction mixture was stripped to remove as much butan-1-ol as possible before being partitioned between diethyl ether and water. The diethyl ether phase was separated and the aqueous re-extracted further with diethyl ether. Combined organic layers dried over magnesium sulphate (anhydrous). Magnesium sulphate was filtered off and filtrate stripped to give brown viscous oil which was azeotroped with toluene (3 times) and placed under high vacuum overnight, transferred to new flask with dichloromethane and stripped, placed under high vacuum to give the title compound as a brown glass (9.45 g).

reactant | sodium tert-butoxide | 15.2 g | CC(C)([O-])C.[Na+]
reactant | 2-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 10.0 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12ClN5O
reactant | butan-1-ol | 76 mL | C(CCC)O | C4H10O
product | 2-(Butoxy)-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 9.45 g | C(CCC)OC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C14H21N5O2
